US05021478
2,4-Bis(2,4-dimethylphenyl)-6-{2-hydroxy-4-[(1-cyclohexyloxy -2,2,6,6-tetramethylpiperidin-4-yloxy)carbonylmethoxy]phenyl}-s-triazine
The title compound, a yellow solid with mp 105°-109° C., is prepared in 54% yield from 1-cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4-yl chloroacetate and 2,4-bis(2,4-dimethylphenyl)-6-(2,4-dihydroxyphenyl)-s-triazine according to the procedure of Example 8B.

reactant | 1-cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4-yl chloroacetate | ClCC(=O)OC1CC(N(C(C1)(C)C)OC1CCCCC1)(C)C | C17H30ClNO3
reactant | 2,4-bis(2,4-dimethylphenyl)-6-(2,4-dihydroxyphenyl)-s-triazine | CC1=C(C=CC(=C1)C)C1=NC(=NC(=N1)C1=C(C=C(C=C1)C)C)C1=C(C=C(C=C1)O)O | C25H23N3O2
product | 2,4-Bis(2,4-dimethylphenyl)-6-{2-hydroxy-4-[(1-cyclohexyloxy -2,2,6,6-tetramethylpiperidin-4-yloxy)carbonylmethoxy]phenyl}-s-triazine | 54% yield | CC1=C(C=CC(=C1)C)C1=NC(=NC(=N1)C1=C(C=C(C=C1)C)C)C1=C(C=C(C=C1)OCC(=O)OC1CC(N(C(C1)(C)C)OC1CCCCC1)(C)C)O | C42H52N4O5
